US07435823B2
Preparation of 1-methyl-4-(2-nitro-4-(trifluoromethyl)phenoxy)piperidine
1-methylpiperidin-4-ol (2.99 mmol, 344.4 mg) was added to a suspension of potassium tert-butoxide in THF (5 mL) and stirred at RT for 30 minutes. 2-fluoro-5-trifluorometyl nitrobenzene (2.39 mmol, 500 mg) was then added and the reaction mixture was stirred an additional 5 h at RT, at which time LC-MS showed complete conversion to the desired product. The reaction mixture was concentrated and the dark brown residue was taken up in methylene chloride (25 mL). This was washed with water (3×20 mL), dried over sodium sulfate, filtered and concentrated to give the crude product as a yellow oil. Crude material (>90% purity) was taken to the next step without further purification LC-MS: 305.1 (M+H)

reactant | 1-methylpiperidin-4-ol | 2.99 mmol, 344.4 mg | CN1CCC(CC1)O | C6H13NO
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 2-fluoro-5-trifluorometyl nitrobenzene | 2.39 mmol, 500 mg | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-methyl-4-(2-nitro-4-(trifluoromethyl)phenoxy)piperidine | CN1CCC(CC1)OC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C13H15F3N2O3
